US04258045
Step A: Preparation of 3-(p-acetamidophenylthio)propanol
A mixture of 16.7 g (0.1 mole) of p-mercaptoacetanilide, 4 g of sodium hydroxide, 40 ml of water, 40 ml of 1,2-dimethoxyethane, and 0.39 g (0.11 mole) of 3-chloropropanol is heated in a steam bath with stirring for 30 minutes. Two liquid phases are formed, and TLC indicates that the reaction is substantially complete. The mixture is distilled in vacuo to remove 1,2-dimethoxyethane, and the oily mixture which separates is triturated with cold water until it solidifies. The crude product is recrystallized from ethanol to obtain a by-product: the disulfide derived from the starting mercapto compound. The ethanol filtrate is concentrated, and the residue is triturated with ether-hexane to obtain 15.7 g of the desired product. Recrystallization from ethyl acetate-hexane gives 11.8 g of 3-(p-acetamidophenylthio)propanol which shows the correct IR and NMR spectra.

reactant | p-mercaptoacetanilide | 0.1 mole, 16.7 g | SC1=CC=C(NC(C)=O)C=C1 | C8H9NOS
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | water | 40 ml | O | H2O
reactant | 3-chloropropanol | 0.11 mole, 0.39 g | ClCCCO | C3H7ClO
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | 3-(p-acetamidophenylthio)propanol | 15.7 g | C(C)(=O)NC1=CC=C(C=C1)SCCCO | C11H15NO2S
